Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
L leg pain; DVT
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with anxiety, depression, ___ transferred from ___ for progressive LLExt DVT on Lovenox SC therapy.  He
states LLEx symtpoms begasn around ___ with some leg redness.
He was seen in urgent care ___ and was given antibiotic and
topical steroid. He presented to ___ ___ and was
diagnosed with LExt DVT (from the common femoral to the 
popliteal
vein) and discharged to home on Lovenox ___ SC daily + 
warfarin
5mg daily. Last night ___ noted more redness up to the
proximal medial thigh and discomfort (tightness, some pain) so
returned to ___, where repeat ___ showed DVT (Distal left
external iliac vein) and CT (extensive deep venous thrombus
involving distal left external iliac vein, common femoral vein,
superficial femoral vein and popliteal vein, and partial
thrombosis of the deep femoral vein)). He was placed on IV
heparin and sent to ___ for potential vasculary surgery
consultation.
 
Past Medical History:
GERD, PUD, H. pylori, general anxiety, depression (no
psych hospitalization or h/o SI), ADD. Denies PTSD though 
deosnt'
want to talk much about psych disease.  
 
Social History:
___
Family History:
no h/o VTE
 
Physical Exam:
ADMISSION EXAM:

15:14 98.2 78 115/66 18 97% RA 
In NAD
Eyes: anicteric
OP: clear, moist
NECK: supple no ___
LUNGS CTA bilat
COR: RRR S1/S2 w/o murmurs
ABD: soft, NT/ND no palpable organomegaly
EXT: L leg edema thigh to foot, some venous congestion, some 
mild
petechial like rash anterior shin, some erythema left medial
thigh
SKIN: sunburn on back
MSK: no effusions
___: none palpable
PSYCCH: mildly anxious, poor eye contact, appropriate responses
NEURO: fluent speech, nl cognition, no sensorimotor deficits,
gait not tested

Patient examined on day of discharge. No significant change in 
left lower extremity.
 
Pertinent Results:
LABORATORY RESULTS:

___ 11:45AM BLOOD WBC-5.8 RBC-4.50* Hgb-15.3 Hct-44.8 
MCV-100* MCH-34.0* MCHC-34.2 RDW-12.9 RDWSD-47.5* Plt ___
___ 07:40AM BLOOD Plt ___
___ 11:45AM BLOOD ___ PTT-137.9* ___
___ 11:45AM BLOOD Glucose-74 UreaN-16 Creat-1.1 Na-140 
K-4.3 Cl-100 HCO3-26 AnGap-14
___ 11:45AM BLOOD ALT-33 AST-61* LD(LDH)-215 AlkPhos-81 
TotBili-0.8
___ 07:40AM BLOOD Calcium-8.9 Phos-2.2* Mg-1.8

CXR: No acute cardiopulmonary abnormality. 
 
Brief Hospital Course:
Mr. ___ is a ___ year-old man with a recently diagnosed LLE 
DVT, started on an enoxaparin bridge to warfarin, who presented 
to ___ after three days with concern for worsening 
swelling. A CT scan was performed at ___, that showed a 
extensive deep venous thrombus involving distal left external 
iliac vein, common femoral vein, superficial femoral vein and 
popliteal vein, and partial thrombosis of the deep femoral vein. 
Because of lack of vascular surgery, he was transferred to ___ 
for consideration of a potential procedure. On admission he was 
started on a heparin drip. Vascular surgery evaluated him, and 
recommended management with a DOAC, and outpatient follow up 
with hematology. Therefore, he was started on apixaban loading 
dose, which he will continue for a week, and then apixaban 
maintenance.

HOSPITAL COURSE BY PROBLEM:

1. Acute DVT.
- apixaban 10 mg BID x 7 days, then 5 mg BID
- at least three months of treatment
- follow up with outpatient hematologist

2. Tobacco use disorder. 
- counseled to stop smoking

3. EtOH use disorder
- counseled to cut back on drinking

4. Anxiety/depression.
- continue on home anxiolytics
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LamoTRIgine 25 mg PO DAILY 
2. ALPRAZolam 2 mg PO TID:PRN anxiety 
3. Amphetamine-Dextroamphetamine 30 mg PO BID 
4. Fluocinolone Acetonide 0.025% Ointment 1 Appl TP DAILY 
itching LLE 

 
Discharge Medications:
1.  Apixaban 10 mg PO BID 
RX *apixaban [Eliquis] 5 mg (74 tabs) 2 tablets(s) by mouth 
Twice daily Disp #*74 Dose Pack Refills:*0 
2.  ALPRAZolam 2 mg PO TID:PRN anxiety  
3.  Amphetamine-Dextroamphetamine 30 mg PO BID  
4.  Fluocinolone Acetonide 0.025% Ointment 1 Appl TP DAILY 
itching LLE  
5.  LamoTRIgine 25 mg PO DAILY  
6.Compression stockings
Thigh high compression stockings, ___ mmHg pressure

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
LLE DVT

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with a swollen leg from your 
left leg DVT. You were transferred from ___ to ___ 
because of concern that you might need an intervention from 
vascular surgery. However, our vascular surgeons evaluated you 
and felt that you could be treated only with medication (a blood 
thinner called apixaban), as well as a compression stocking. You 
will need to take a blood thinner for at least three months, and 
may potentially need it for longer. Please make an appointment 
with a hematologist (a blood doctor) within the next three 
months for additional work up. I am also discharging you with a 
compression stocking. Please wear this for symptomatic treatment 
of your swelling.
 
Followup Instructions:
___